US07893056B2
To a stirred solution of (2S)-2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-4-pentenoic acid (2.82 g, 13 mmol), DMAP (1.9 g, 16 mmol) and EDC (3.1 g, 16 mmol) was added N-methylallylamine (1.38 mL, 14 mmol). The reaction was stirred for 72 hours before being quenched by the addition of 1 M HCl (15 mL). The resulting biphasic mixture was separated and the aqueous phase was extracted once with DCM. The combined organics were dried over sodium sulfate and concentrated to yield 1,1-dimethylethyl {(1S)-1-[(2-propen-1-ylamino)carbonyl]-3-buten-1-yl}carbamate (0.94 g, 28%). LCMS: (M−tBut)+: 238.1.

reactant | (2S)-2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-4-pentenoic acid | 13 mmol, 2.82 g | CC(C)(C)OC(=O)N[C@H](C(=O)O)CC=C | C10H17NO4
reactant | EDC | 16 mmol, 3.1 g
reactant | N-methylallylamine | 14 mmol, 1.38 mL | CC=CCN | C4H9N
catalyst | DMAP | 16 mmol, 1.9 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1,1-dimethylethyl {(1S)-1-[(2-propen-1-ylamino)carbonyl]-3-buten-1-yl}carbamate | 0.94 g, 28% | C(C=C)NC(=O)[C@H](CC=C)NC(OC(C)(C)C)=O | C13H22N2O3
